US07507743B2
1.5 Tert-butyl 1-(2-aminoethyl)cyclopropylcarbamate
To a solution of 4.57 g (13.83 mmol) of tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]cyclopropylcarbamate in 80 ml of ethanol was added 3.36 ml (69.16 mmol) of hydrazine hydrate and the resulting mixture was heated under reflux for 16 h. The mixture was filtered and washed with diethyl ether. The filtrate was evaporated to dryness to give 2.3 g of pure compound as an orange oil.

reactant | tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]cyclopropylcarbamate | 13.83 mmol, 4.57 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1(CC1)NC(OC(C)(C)C)=O | C18H22N2O4
reactant | hydrazine hydrate | 69.16 mmol, 3.36 ml | O.NN
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Tert-butyl 1-(2-aminoethyl)cyclopropylcarbamate | 2.3 g | NCCC1(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
